US05366992
3-Acetoxy-N-(2-nitroxyethyl)-benzamide
18.6 g (0.110 mole) of 2-nitrooxy-ethylamine nitrate at 0° C. were added to a solution of 40.7 g (0.458 mole) of sodium bicarbonate in 140 ml of water and 120 ml of chloroform. After stirring for 10 min, 22.5 g (0.113 mole) of 3-acetoxybenzoic acid chloride were dropped therein and the resulting mixture was stirred for one hour at 0° C. The reaction mixture was warmed to room temperature, the two phases were separated and the organic phase was washed with water and dried over sodium sulfate. The crude title product was obtained, which was recrystallized from ethyl ether. M.p. 89°-91° C. Yield 26.5 g.

reactant | 2-nitrooxy-ethylamine nitrate | 0.110 mole, 18.6 g | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | sodium bicarbonate | 0.458 mole, 40.7 g | C([O-])(O)=O.[Na+]
reactant | 3-acetoxybenzoic acid chloride | 0.113 mole, 22.5 g | C(C)(=O)OC=1C=C(C(=O)Cl)C=CC1 | C9H7ClO3
solvent | water | 140 ml | O | H2O
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Acetoxy-N-(2-nitroxyethyl)-benzamide | C(C)(=O)OC=1C=C(C(=O)NCCO[N+](=O)[O-])C=CC1 | C11H12N2O6
